US06635657B1
B. N-(5-Chloropyridin-2-yl)-5-methoxycarbonyl-2-[[1-(4-pyridinyl)piperidin-4-ylmethyl]amino]benzamide
Using a similar procedure to that described in Example 52, N-(5-chloropyridin-2-yl)-5-methoxycarbonyl-2-[(4-piperidinylmethyl)amino]benzamide (0.30 g, 0.74 mmol) and 4-chloropyridine hydrochloride (0.22 g, 1.5 mmol) afforded, after purification by ion-exchange chromatography (SCX), 260 mg (73%) of the title compound.

reactant | N-(5-chloropyridin-2-yl)-5-methoxycarbonyl-2-[(4-piperidinylmethyl)amino]benzamide | 0.74 mmol, 0.30 g | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)C(=O)OC)NCC1CCNCC1)=O | C20H23ClN4O3
reactant | 4-chloropyridine hydrochloride | 1.5 mmol, 0.22 g | Cl.ClC1=CC=NC=C1
product | N-(5-Chloropyridin-2-yl)-5-methoxycarbonyl-2-[[1-(4-pyridinyl)piperidin-4-ylmethyl]amino]benzamide | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)C(=O)OC)NCC1CCN(CC1)C1=CC=NC=C1)=O | C25H26ClN5O3
